US07919498B2
To a mixture of 4-aminopyrido[2,3-d]pyrimidin-5(8H)-one (0.1 g, 0.616 mmol), Cs2CO3 (0.3013 g, 0.925 mmol, 1.5 eq), and KI (0.0102 g, 0.0616 mmol, 0.1 eq) in DMF (2 mL) was added 3-(chloromethyl)-2-(2-chlorophenyl)-8-methyl-quinoline (0.2049 g, 0.678 mmol, 1.1 eq) and the mixture was stirred at 140° C. for 2.5 h. The mixture was concentrated under reduced pressure. The crude product was purified by column chromatography on a 40 g of Redi-Sep™ column using 0 to 100% gradient of EtOAc in hexane over 14 min and then 100% isocratic of EtOAc for 10 min as eluent to provide 4-amino-8-((2-(2-chlorophenyl)-8-methylquinolin-3-yl)methyl)pyrido[2,3-d]pyrimidin-5(8H)-one as white solid. The white solid was triturated with EtOAc-Hexane (1:1) and filtered to provide 4-amino-8-((2-(2-chlorophenyl)-8-methylquinolin-3-yl)methyl)pyrido[2,3-d]pyrimidin-5(8H)-one [PI3Kδ IC50=58 nM] as white solid. 1H NMR (DMSO-d6) δ ppm 9.53 (1 H, d, J=4.7 Hz), 8.13 (1 H, s), 8.04-8.11 (2 H, m), 7.84 (1 H, d, J=7.8 Hz), 7.78 (1 H, d, J=7.8 Hz), 7.64 (1 H, d, J=7.0 Hz), 7.38-7.59 (5 H, m), 6.12 (1H, d, J=7.8 Hz), 5.40 (2 H, d, J=6.3 Hz), 2.64 (3 H, s). Mass Spectrum (ESI) m/e=428.0 (M+1).

reactant | 4-aminopyrido[2,3-d]pyrimidin-5(8H)-one | 0.616 mmol, 0.1 g | NC=1C2=C(N=CN1)NC=CC2=O | C7H6N4O
reactant | Cs2CO3 | 0.925 mmol, 0.3013 g, 1.5 eq | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 3-(chloromethyl)-2-(2-chlorophenyl)-8-methyl-quinoline | 0.678 mmol, 0.2049 g, 1.1 eq | ClCC=1C(=NC2=C(C=CC=C2C1)C)C1=C(C=CC=C1)Cl | C17H13Cl2N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4-amino-8-((2-(2-chlorophenyl)-8-methylquinolin-3-yl)methyl)pyrido[2,3-d]pyrimidin-5(8H)-one | NC=1C2=C(N=CN1)N(C=CC2=O)CC=2C(=NC1=C(C=CC=C1C2)C)C2=C(C=CC=C2)Cl | C24H18ClN5O
